US09388195B2
C) Production of 4-bromo-5-ethyl-N,N-dimethyl-1H-pyrazole-1-sulfonamide
1-Bromopyrrolidine-2,5-dione (20.8 g) was added to a stirring solution (300 mL) of 5-ethyl-N,N-dimethyl-1H-pyrazole-1-sulfonamide (19.8 g) in tetrahydrofuran at room temperature. The reaction system was heated to 50° C., stirred for 2 hr and concentrated under reduced pressure. The residue was poured into saturated aqueous sodium hydrogen carbonate, and the mixture was extracted with ethyl acetate, and dried over anhydrous magnesium sulfate. Insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (26.2 g) as a yellow oil.

reactant | 1-Bromopyrrolidine-2,5-dione | 20.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 5-ethyl-N,N-dimethyl-1H-pyrazole-1-sulfonamide | 300 mL, 19.8 g | C(C)C1=CC=NN1S(=O)(=O)N(C)C | C7H13N3O2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-bromo-5-ethyl-N,N-dimethyl-1H-pyrazole-1-sulfonamide | 26.2 g | BrC=1C=NN(C1CC)S(=O)(=O)N(C)C | C7H12BrN3O2S
